US05734051
1,3-Di-cyclopropylmethyl-8-pyrrolidinyl Xanthine
The title compound was prepared from 1,3-di-cyclopropylmethyl-8-chloro xanthine (0.3 g, 0.0011 mol) and pyrrolidine (0.2 g, 0.0028 mol) using an analogous procedure to that described in Example 19. The title product was obtained as a crystalline solid, m.pt. >250° C.

reactant | 1,3-di-cyclopropylmethyl-8-chloro xanthine | 0.0011 mol, 0.3 g | C1(CC1)CN1C(=O)N(C=2N=C(NC2C1=O)Cl)CC1CC1 | C13H15ClN4O2
reactant | pyrrolidine | 0.0028 mol, 0.2 g | N1CCCC1 | C4H9N
product | 1,3-Di-cyclopropylmethyl-8-pyrrolidinyl Xanthine | C1(CC1)CN1C(=O)N(C=2N=C(NC2C1=O)N1CCCC1)CC1CC1 | C17H23N5O2
